US03957833
By utilizing the procedure of Example 8, by reacting p-[(1,5-dimethyl-4-hexenyl)oxy]benzoic acid with propargyl bromide, there is obtained p-[(1,5-dimethyl-4-hexenyl)oxy]benzoic acid propargyl ester; nD22 = 1.5252.

reactant | p-[(1,5-dimethyl-4-hexenyl)oxy]benzoic acid | CC(CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C15H20O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(1,5-dimethyl-4-hexenyl)oxy]benzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)OC(CCC=C(C)C)C)=O | C18H22O3
